US06538016B2
A mixture of 4-hydroxy-3-methoxy-benzyl alcohol (14.7 g) and sodium cyanide (5 g) in dimethylformamide (200 ml) is stirred under an atmosphere of nitrogen for 3 hours at +120° C. The mixture is then cooled to +100° C. and 1-(2-bromo-ethoxy)-4-fluoro-benzene (25 g) is added in one portion. The mixture is stirred at +100° C. for another 4 hours. Upon cooling water (800 ml) is added. The mixture is extracted with ethyl acetate (2×500 ml). The organic phases are washed with brine (2×500 ml), dried (MgSO4) and evaporated. The residue is recrystallised from ethyl acetate/hexane. {4-[2-(4-Fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-acetonitrile is obtained, m.p. 126-128° C.

reactant | 4-hydroxy-3-methoxy-benzyl alcohol | 14.7 g | OC1=C(C=C(CO)C=C1)OC | C8H10O3
reactant | sodium cyanide | 5 g | [C-]#N.[Na+]
reactant | 1-(2-bromo-ethoxy)-4-fluoro-benzene | 25 g | BrCCOC1=CC=C(C=C1)F | C8H8BrFO
reactant | water | 800 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | {4-[2-(4-Fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-acetonitrile | FC1=CC=C(OCCOC2=C(C=C(C=C2)CC#N)OC)C=C1 | C17H16FNO3
